US04477447
A suspension of 4-nitrobenzyloxycarbonylmethyl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer, 1.34 g) and 10% palladium on carbon (0.7 g) in tetrahydrofuran (50 ml) and methanol (15 ml) was subjected to catalytic reduction under hydrogen atmosphere at 1 atm., until the uptake of hydrogen ceased. After removing the insoluble substance by filtration, the filtrate was concentrated in vacuo. The residue was triturated with ethyl acetate to give powder (0.35 g) of carboxymethyl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer), mp>250° C.

reactant | 4-nitrobenzyloxycarbonylmethyl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | 1.34 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC | C22H20N6O9S2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.7 g | [Pd] | Pd
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | methanol | 15 ml | CO | CH4O
product | carboxymethyl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | 0.35 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC(=O)O)C1=O)=NOC | C15H15N5O7S2
